US05411977
A mixture of 0.250 g (0.800 mmol) N-(2-benzothiazolyl)-3-mercapto-3-phenylpropenamide and 10 mL methylene chloride was stirred at room temperature. Added was 0.203 g (0.800 mmol) iodine dissolved in 10 mL methylene chloride and the mixture stirred 5 mins. Added next was 0.5 mL (excess) triethylamine and the mixture stirred for one hour. Solvent was evaporated and the residue dissolved in ethyl acetate and washed with water. The organic layer was dried, filtered and solvent was evaporated. The resulting solid was recrystallized from absolute ethanol to provide 0.090 g (0.290 mmol, 36%) N-(2-benzothiazolyl)-5-phenyl-4-isothiazolin-3-one as a very pale, yellow solid, mp=201°-202° C. NMR (CDCl3 /TMS): 6.6 (s, 1H)7.3-7.95 (m, 9H). IR (Nujol): 1680. High resolution mass spectrum: Calculated; 311.031282. Measured; 311.030775. Anal. calcd. for C16H10N2OS2 : C 61.91, H 3.25, N 9.03, S 20.66; Found C 61.82, H 3.14, N 8.97, S 20.55.

reactant | N-(2-benzothiazolyl)-3-mercapto-3-phenylpropenamide | 0.800 mmol, 0.250 g | S1C(=NC2=C1C=CC=C2)NC(C=C(C2=CC=CC=C2)S)=O | C16H12N2OS2
reactant | iodine | 0.800 mmol, 0.203 g | II | I2
reactant | triethylamine | 0.5 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | N-(2-benzothiazolyl)-5-phenyl-4-isothiazolin-3-one | 0.290 mmol, 0.090 g, 36% | S1C(=NC2=C1C=CC=C2)N2SC(=CC2=O)C2=CC=CC=C2 | C16H10N2OS2
